US08071592B2
A solution of 7-fluoro-1-(2-propen-1-yl)-2(1H)-quinoxalinone (2.4 g, 11.77 mmol) in 1,4-dioxane (140 ml) and water (250 ml) was treated with osmium tetroxide (4% solution in water; 14.5 ml) and sodium periodate (11.9 g) and the mixture was stirred at rt for 1.5 hours. It was evaporated to dryness onto silica gel and chromatographed on a 300 g silica gel column, eluting with 1:1 ethyl acetate-hexane then ethyl acetate. The early fractions gave (7-fluoro-2-oxo-1(2H)-quinoxalinyl)acetaldehyde which was triturated with ether/DCM 3:1 to give product (1.56 g).

reactant | 7-fluoro-1-(2-propen-1-yl)-2(1H)-quinoxalinone | 11.77 mmol, 2.4 g | FC1=CC=C2N=CC(N(C2=C1)CC=C)=O | C11H9FN2O
reactant | sodium periodate | 11.9 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 140 ml | O1CCOCC1 | C4H8O2
solvent | water | 250 ml | O | H2O
catalyst | osmium tetroxide | 14.5 ml | [Os](=O)(=O)(=O)=O
product | (7-fluoro-2-oxo-1(2H)-quinoxalinyl)acetaldehyde | FC1=CC=C2N=CC(N(C2=C1)CC=O)=O | C10H7FN2O2
